US08431695B2
Step 5: Preparation of 5-[3-(benzyloxy)phenyl]-7-(4-bromobutyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a cooled (0° C.) solution of 4{4-amino-5-[3-(benzyloxy)phenyl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}butan-1-ol (489 mg, 1.26 mmol) and triphenylphosphine (495 mg, 1.89 mmol) in tetrahydrofuran (8 mL) was added carbon tetrabromide (501 mg, 1.51 mmol). The reaction was stirred (0° C.) for 2 h and was then warmed to rt and stirred an additional 17 h. Water (25 mL) was added and the mixture was extracted with ethyl acetate (2×20 mL). The combined organics were washed with brine, dried (Na2SO4) and evaporated. The crude material was purified via ISCO® chromatography using a gradient of 25 to 50% ethyl acetate in hexanes to afford 484 mg (85%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ7.88 (s, 1 H), 7.46-7.42 (m, 2 H), 7.41-7.28 (m, 4 H), 7.08-7.05 (m, 1 H), 7.03-6.97 (m, 2 H), 6.57 (s, 1 H), 5.14 (s, 2 H), 3.57 (t, 2 H), 2.90 (t, 2 H), 1.92-1.77 (m, 4 H); ES-MS m/z 451.1 [M+H]+, HPLC RT (min) 3.22.

reactant | 4{4-amino-5-[3-(benzyloxy)phenyl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}butan-1-ol | 1.26 mmol, 489 mg | NC1=NC=NN2C1=C(C=C2CCCCO)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C23H24N4O2
reactant | triphenylphosphine | 1.89 mmol, 495 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.51 mmol, 501 mg | C(Br)(Br)(Br)Br | CBr4
reactant | Water | 25 mL | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 5-[3-(benzyloxy)phenyl]-7-(4-bromobutyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 484 mg, 85% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1C=C(N2N=CN=C(C21)N)CCCCBr | C23H23BrN4O
